.subckt cinv A OE VDD VSS X
M5 net6 OE VSS VSS nchor1ex w=2u l=1u
M4 N002 OE VSS VSS nchor1ex w=2u l=1u
M3 X A N002 VSS nchor1ex w=2u l=1u
M2 net6 OE VDD VDD pchor1ex w=6u l=1u
M1 X A N001 VDD pchor1ex w=6u l=1u
M0 N001 net6 VDD VDD pchor1ex w=6u l=1u
.ends cinv