.subckt na212 A0 A1 B0 VDD VSS X
M5 net031 A1 VSS VSS nchor1ex w=2u l=1u
M4 net031 A0 VSS VSS nchor1ex w=2u l=1u
M3 X B0 net031 VSS nchor1ex w=2u l=1u
M2 X B0 VDD VDD pchor1ex w=6u l=1u
M1 X A1 N001 VDD pchor1ex w=6u l=1u
M0 N001 A0 VDD VDD pchor1ex w=6u l=1u
.ends na212