.subckt nr21 A B VDD VSS X
M3 N001 A VDD VDD pchor1ex w=6u l=1u
M2 X B N001 VDD pchor1ex w=6u l=1u
M1 X B VSS VSS nchor1ex w=2u l=1u
M0 X A VSS VSS nchor1ex w=2u l=1u
.ends nr21