.subckt nr31 A B C VDD VSS X
M5 X C VSS VSS nchor1ex w=2u l=1u
M4 X B VSS VSS nchor1ex w=2u l=1u
M3 X A VSS VSS nchor1ex w=2u l=1u
M2 X C N002 VDD pchor1ex w=6u l=1u
M1 N002 B N001 VDD pchor1ex w=6u l=1u
M0 N001 A VDD VDD pchor1ex w=6u l=1u
.ends nr31